US04002742
in the procedure of above Example 1A instead of adding 1 N sulfuric acid to the solution of sisomicin in water until it reaches a pH of about 5, other acids may be used, such as acetic acid, trifluoroacetic acid, p-toluenesulfonic acid, hydrochloric acid, phosphoric acid, or nitric acid. The acidified aqueous solution is then treated with acetaldehyde and sodium cyanoborohydride and the resultant product is purified as described above, whereby is obtained 1-N-ethylsisomicin.

reactant | sulfuric acid | 1 N | S(O)(O)(=O)=O | H2O4S
reactant | sisomicin | C[C@@]1(CO[C@@H]([C@@H]([C@H]1NC)O)O[C@H]2[C@@H](C[C@@H]([C@H]([C@@H]2O)O[C@@H]3[C@@H](CC=C(O3)CN)N)N)N)O | C19H37N5O7
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydrochloric acid | Cl | ClH
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-N-ethylsisomicin | CCN[C@@H]1C[C@@H]([C@H]([C@@H]([C@H]1O[C@@H]2[C@@H]([C@H]([C@@](CO2)(C)O)NC)O)O)O[C@@H]3[C@@H](CC=C(O3)CN)N)N | C21H41N5O7
